US06531491B1
To 3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamine (1.1 g, 3 mmol, m-nitro-iodobenzene (0.9 g, 3.6 mmol), BINAP (0.07 g, 0.133 mmol), Pd2(dba)3 (34 mg, 0.0375 mmol) and Cs2CO3 (1.37 g, 4.2 mmol) under an atmosphere of argon was added toluene (6 mL). The resulting heterogeneous mixture was heated to 80° C. After 46 h the reaction was cooled to 23° C. diluted with ethyl acetate (EtOAc) (20 mL) and filtered. Water (5 mL) was added, the phases were separated, and the organic was extracted 2×50 mL EtOAc. The pooled organic material was washed with brine, then dried with Na2SO4, filtered and concentrated under reduced pressure. The crude reaction was purified by silica gel chromatography (eluting with 9:1 hexane:EtOAc) to give (3-nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-amine as a yellow solid (7.65 g, 74%): TLC (Hexane:EtOAc 7:3) Rf sm 0.16, Rf p 0.30 (ethyl acetate:hexane 3:7); FTIR (KBr) 3391, 3059, 2952, 2894, 1614, 1530, 1483, 1346, 1248, 1076, 836, 734 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.83 (s, 1H), 7.65 (dt, 1H, J=2.21, 5.13 Hz), 7.15-7.41 (m, 5H), 6.93 (dd, 1H, J=1.87, 8.67 Hz), 5.56 (s, 2H), 3.51 (t, 2H, J=8.17 Hz), 0.81 (t, 2H, J=7.96 Hz), −0.15 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 149.6, 144.8, 143.5, 142.4, 140.9, 137.3, 131.8, 130.3, 129.0, 128.2, 126.7, 122.8, 122.6, 120.1, 119.3, 116.1, 115.6, 111.4, 98.5, 77.9,66.7, 18.0, −1.2; MS (ESI) [M+H]/z Calc'd 487, found 487. Anal. Calc'd: C, 66.64; H. 6.21; N, 11.51. Found: C, 66.91; H. 6.21; N, 11.44.

reactant | 3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamine | C(=CC1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)N)COCC[Si](C)(C)C | C21H27N3OSi
reactant | m-nitro-iodobenzene | 3.6 mmol, 0.9 g | [N+](=O)([O-])C=1C=C(C=CC1)I | C6H4INO2
reactant | Cs2CO3 | 4.2 mmol, 1.37 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.0375 mmol, 34 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.133 mmol, 0.07 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | (3-nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-amine | 7.65 g, 74% | [N+](=O)([O-])C=1C=C(C=CC1)NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C27H30N4O3Si
